US09388161B2
A 250-mL round-bottom flask was charged with 4-iodo-1H-pyrazole (1.97 g, 10.2 mmol), N,N-dimethylformamide (20 mL), 3-(benzyloxy)cyclobutyl methanesulfonate (2.60 g, 10.2 mmol) and cesium carbonate (9.75 g, 29.9 mmol), and the resulting mixture stirred overnight at 80° C. The reaction mixture was cooled to room temperature, poured into water (50 mL), and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to afford 1-(3-(benzyloxy)cyclobutyl)-4-iodo-1H-pyrazole (3.00 g, 83%) as yellow oil. MS (ESI, pos. ion) m/z 355 [M+H]+.

reactant | 4-iodo-1H-pyrazole | 10.2 mmol, 1.97 g | IC=1C=NNC1 | C3H3IN2
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 3-(benzyloxy)cyclobutyl methanesulfonate | 10.2 mmol, 2.60 g | CS(=O)(=O)OC1CC(C1)OCC1=CC=CC=C1 | C12H16O4S
reactant | cesium carbonate | 29.9 mmol, 9.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 50 mL | O | H2O
product | 1-(3-(benzyloxy)cyclobutyl)-4-iodo-1H-pyrazole | 3.00 g, 83% | C(C1=CC=CC=C1)OC1CC(C1)N1N=CC(=C1)I | C14H15IN2O
